US07351719B2
Z23f) 2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethylamine
A reaction mixture of 0.73 g (3.66 mmol) of (4-pyrrolidin-1-ylmethyl-phenyl)-acetonitrile and 0.1 g Raney nickel in 25 mL of methanolic ammonia solution is hydrogenated for 9 hours at 50° C. under 3 bar hydrogen.

reactant | (4-pyrrolidin-1-ylmethyl-phenyl)-acetonitrile | 3.66 mmol, 0.73 g | N1(CCCC1)CC1=CC=C(C=C1)CC#N | C13H16N2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.1 g | [Ni] | Ni
solvent | ammonia | 25 mL | N | H3N
product | 2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethylamine | N1(CCCC1)CC1=CC=C(C=C1)CCN | C13H20N2
